US04061650
5.0 g of methyl α-isocyanoacetate and 5.0 g of triethylamine are dissolved in 40 ml of benzene. 7.4 g of chloral are added to the solution at 0° C under stirring. The mixture is stirred at room temperature for 4 hours. Then, the mixture is neutralized with acetic acid, and evaporated under reduced pressure to remove solvent. The residue is dissolved in 50 ml of ethyl acetate. The solution is washed with water, dried, and then evaporated under reduced pressure to remove ethyl acetate. The residue thus obtained is distilled under reduced pressure. 10.6 g of trans-4-methoxycarbonyl-5-trichloromethyl-2-oxazoline are obtained. Yield: 85% B.p. 95° C/1 mmHg

reactant | methyl α-isocyanoacetate | 5.0 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | triethylamine | 5.0 g | C(C)N(CC)CC | C6H15N
reactant | chloral | 7.4 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | trans-4-methoxycarbonyl-5-trichloromethyl-2-oxazoline | 10.6 g, Yield: 85% | COC(=O)[C@@H]1N=CO[C@H]1C(Cl)(Cl)Cl | C6H6Cl3NO3
